US04958029
5,6-Dimethoxy-N-methylisoindoline hydrochloride
1.0 g (3.12 mmol) of N-benzyl-5,6-dimethoxy-N-methylisoindolinium hydrochloride was dissolved in 20 ml of methanol, and 0.5 ml of 6N hydrochloric acid and 100 mg of a 10% palladium carbon catalyst were added thereto. The catalytic reduction was conducted at room temperature for 5 hours in a hydrogen gas stream. The catalyst was filtered off, and the solvent was distilled off under reduced pressure. The crystal residue was washed with 10 ml of acetone to obtain 650 mg of the above identified compound.

reactant | N-benzyl-5,6-dimethoxy-N-methylisoindolinium hydrochloride | 3.12 mmol, 1.0 g | Cl.C(C1=CC=CC=C1)[N+]1(CC2=CC(=C(C=C2C1)OC)OC)C
reactant | hydrochloric acid | 6N, 0.5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | 5,6-Dimethoxy-N-methylisoindoline hydrochloride | Cl.COC=1C=C2CN(CC2=CC1OC)C | InChI=1S/C11H15NO2.ClH/c1-12-6-8-4-10(13-2)11(14-3)5-9(8)7-12;/h4-5H,6-7H2,1-3H3;1H
